Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
acute nausea/vomiting
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Time and date the patient was last known well: 21:00 on ___
___ Stroke Scale Score: 0
t-PA given: No 
Reason t-PA was not given or considered: outside window, low
NIHSS 
Thrombectomy performed: No 
If no, reason thrombectomy was not performed or considered: low
NIHSS, no large vessel cut off

The NIHSS was performed: 
Date: ___
Time: 2:30pm
(within 6 hours of patient presentation or neurology consult) 
 
___ Stroke Scale score was : 0
1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0
2. Best gaze: 0
3. Visual fields: 0
4. Facial palsy: 0
5a. Motor arm, left: 0
5b. Motor arm, right: 0
6a. Motor leg, left: 0
6b. Motor leg, right: 0
7. Limb Ataxia: 0
8. Sensory: 0
9. Language: 0
10. Dysarthria: 0
11. Extinction and Neglect: 0
 
REASON FOR CONSULTATION: Vertigo and vomiting
 
HPI: 
Ms. ___ is a ___ female with history of CAD, HTN and
HLD, presenting with acute onset vertigo and nausea/vomiting
since this morning.  

She was in her USOH last night when she ate her typical dinner 
of
cereal.  She went to bed and when she woke up this morning 
around
6am she felt light-headed and nauseous, and unsteady on her 
feet.
She continued to have nausea and vomited for the first time
around 7am.  She continued to have intermittent symptoms of
room-spinning particularly when standing up and had difficulty
walking due to this (would lean from side to side).  She vomited
a total of 3 times since this morning.  She feels better when 
she
rests, but she states she still feels a little light-headed.  
Her
granddaughter thinks her speech is more slurred than usual in
addition to being quiet and tired sounding.  She feels she has
some difficulty getting her words out clearly.  

No recent trauma, MVCs, or neck manipulation.  No vision changes
or hearing changes.  Reports recent airplane ride to ___
last week, during which her ears popped several times and she 
has
had productive cough since then without fever or chills.  She
endorses chronic neck pain and headache.

She thinks she had similar symptoms a few months ago when she 
was
in ___ that ultimately resolved after being hospitalized
for a few days.  

She came to the ED today for further evaluation.  They noted 
that
she seemed unsteady and continued to have intermittent symptoms
so requested Neurology consultation.  They reported her
___ was negative.  
 
On neuro ROS, she denies headache, current changes in vision,
diplopia, tinnitus or hearing difficulty.  Denies difficulties
producing or comprehending speech.  Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. 
 
On general review of systems, she denies recent fever or chills. 

No night sweats or recent weight loss or gain. Denies cough,
shortness of breath.  Denies chest pain or tightness,
palpitations.   
 

 
Past Medical History:
CAD 
HLD
HTN
joint pains
vaginal prolapse s/p hysterectomy in early ___
 
Social History:
Lives with several of her daughters on different days of the 
week
while in the ___.  She spends half the year in ___ and 
plans
to go back in ___.  She uses a cane, but otherwise is
independent and cooks and cleans on her own.  When in ___
she is the sole caretaker of her husband.  
 
- Modified Rankin Scale:
[] 0: No symptoms
[] 1: No significant disability - able to carry out all usual
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
[x] 3: Moderate disability: requires some help but able to walk
unassisted
[] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
[] 6: Dead
 
Family History:
Unknown 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Orthostatics:
Supine: HR 58, BP 135/57 
Sitting: HR 63, BP 141/68 
Standing: HR 63, BP 134/68 

General: Lying in bed, appears uncomfortable but NAD
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented to self, place (hospital) and
month/year (___) but not day. Able to relate history
without difficulty. Language is fluent with intact repetition 
and
comprehension. There were no paraphasic errors. Pt was able to
name both high and low frequency objects.  Speech was not
dysarthric. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.
-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Subtle 
vertical
skew (right sits slightly higher than left). No catch up 
saccade.

V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to conversation bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.  

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements noted. Strength ___ throughout. 

-Sensory: No deficits to light touch throughout.  

-DTRs: 2+ in biceps, patellae and ankles 

-Coordination: Very slight intention tremor. No dysmetria on FNF
bilaterally.

DISCHARGE PHYSICAL EXAM:
General: eating lunch, comfortable appearing
HEENT: no scleral icterus, pain to palpation on the bilateral 
trapezius and occiput
MS: awake, alert, oriented, conversational in ___ with no 
dysarthria. 
CN: pupils 2.5-->2, EOMI with no nystagmus, no skew deviation, 
face symmetric, tongue midline, no uvula deviation

Motor: no pronator drift
Full strength upper and lower extremities bilaterally

Coordination: no dysmetria on finger to nose bilaterally

Gait: able to stand independently, walks without assistance with 
normal based gait and steady steps
 
Pertinent Results:
___ 05:30AM BLOOD WBC-5.4 RBC-3.81* Hgb-11.6 Hct-36.2 
MCV-95 MCH-30.4 MCHC-32.0 RDW-13.2 RDWSD-45.3 Plt ___
___ 05:30AM BLOOD Plt ___
___ 05:30AM BLOOD ___ PTT-25.0 ___
___ 05:30AM BLOOD Glucose-117* UreaN-15 Creat-0.8 Na-147 
K-4.3 Cl-110* HCO3-26 AnGap-11
___ 05:30AM BLOOD ALT-10 AST-16 LD(LDH)-190 CK(CPK)-50 
AlkPhos-56 TotBili-0.3
___ 05:30AM BLOOD CK-MB-<1 cTropnT-<0.01
___ 05:30AM BLOOD TotProt-6.0* Albumin-3.4* Globuln-2.6 
Cholest-152
___ 05:30AM BLOOD %HbA1c-6.4* eAG-137*
___ 05:30AM BLOOD Triglyc-172* HDL-54 CHOL/HD-2.8 
LDLcalc-64
___ 05:30AM BLOOD TSH-2.6
___ 12:05PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

MRI Brain without Contrast
FINDINGS:  
  
There is no evidence of acute infarction.  A single punctate 
gradient echo 
susceptibility artifact overlying the right parietal occipital 
lobe (series 
11, image 15) is likely sequela of prior microhemorrhage.  No 
other 
intracranial hemorrhage. No mass, mass effect, edema or midline 
shift. 
  
The ventricles and sulci are mildly prominent.  Periventricular 
and 
subcortical white matter FLAIR hyperintensities are noted, a 
nonspecific 
finding that most likely represents the sequelae of chronic 
small vessel 
ischemic disease.   There is gross preservation of the principal 
intracranial 
vascular flow voids. 
  
Mucosal thickening is seen within the maxillary sinuses, 
sphenoid sinuses, and 
bilateral ethmoid air cells.  Trace mastoid fluid is also seen 
bilaterally.  
The orbits are unremarkable. 
  
IMPRESSION: 
  
  
1. No evidence for acute intracranial abnormality.  Specifically 
no acute 
intracranial hemorrhage or infarct. 
2. Background global parenchymal volume loss and evidence of 
chronic small 
vessel ischemic disease. 
3. Multifocal paranasal sinus disease as well as fluid in the 
mastoid air 
cells.  Clinical correlation with patient's symptoms is 
recommended. 
4. Additional findings described above. 

CT/CTA Head and Neck
FINDINGS:  
  
CT HEAD WITHOUT CONTRAST: 
There is no evidence of infarction, hemorrhage, edema, or mass. 
The ventricles 
and sulci are normal in size and configuration. 
  
There is bilateral, left greater than right, mucosal thickening 
in the 
maxillary sinuses as well as extensive mucosal thickening of the 
anterior 
ethmoidal air cells and mild mucosal thickening of the left 
greater than right 
sphenoid sinuses.  Air-fluid levels are noted in the left 
maxillary sinus.  
The visualized portion of the paranasal sinuses, mastoid air 
cells, and middle 
ear cavities are clear.  Incidentally noted scleral plaque in 
the right orbit. 
Otherwise, the visualized portion of the orbits are 
unremarkable. 
  
CTA HEAD: 
The vessels of the circle of ___ and their principal 
intracranial branches 
appear normal with no evidence of stenosis, occlusion, or 
aneurysm. The dural 
venous sinuses are patent. 
  
IMPRESSION: 
  
  
1. No acute intracranial abnormality. 
2. Extensive sinus disease, as described above. 
3. Normal CTA of the head. 

 
Brief Hospital Course:
___ is a pleasant ___ ___ speaking woman 
with history of hypertension who presented with acute onset 
vertigo, nausea, and vomiting in the setting of recent viral 
upper respiratory tract infection. Her initial exam concerning 
for subtle vertical skew without diplopia or nystagmus. Vitals 
notable for 20 point drop in SBP from lying to standing. On 
re-evaluation she did not have any evidence of nystagmus or EOM 
abnormality. She did become symptomatic on standing. NCHCT and 
CTA head unremarkable. MRI with no evidence of stroke. Stroke 
risk factors checked with A1C of 6.5% and LDL of 64. We started 
aspirin 81mg for stroke prevention. Her fingerstick blood 
glucose was checked Q6H, and she did not require sliding scale 
insulin. She was evaluated by physical therapy, who recommended 
short term acute rehab. Etiology of her symptoms likely post 
viral peripheral vestibulopathy. She was found to have 
significant muscle tension on exam, so she was given a soft 
cervical collar to sleep with at night, as well as a 
prescription for physical therapy for myofascial release.

Transitional Issues: 
# PCP follow up one week after discharge for follow up of BPPV 
and diabetes 
# ___ for myofascial release
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rosuvastatin Calcium 20 mg PO QPM 
2. Ranolazine ER 500 mg PO BID 
3. Omeprazole 20 mg PO DAILY 
4. Carvedilol 12.5 mg PO BID 
5. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
ASDIR 
6. Voltaren (diclofenac sodium) 50 mg topical Frequency is 
Unknown 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Aspirin Regimen] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*3 
2.  Diclofenac Sodium ___ ___ sodium) 50 mg topical 
DAILY:PRN joint pain  
3.  Carvedilol 12.5 mg PO BID  
4.  Omeprazole 20 mg PO DAILY  
5.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
ASDIR  
6.  Ranolazine ER 500 mg PO BID  
7.  Rosuvastatin Calcium 20 mg PO QPM  
8.Outpatient Physical Therapy
For myofascial release

723.1
9.Soft cervical collar
Wear nightly during sleep to help with pain

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Post viral peripheral vestibulopathy
Hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear ___,  
 
___ were hospitalized due to symptoms of dizziness, nausea, and 
vomiting concerning for a stroke. We imaged your brain with a 
head CT and an MRI which did not show evidence of a stroke. We 
checked your stroke risk factors and found your hemoglobin A1C 
at 6.5%, your bad cholesterol LDL was 64. We think the cause of 
your dizziness is likely an inner ear process related to your 
recent cold and expect it will resolve spontaneously. We did 
find that your blood pressure dropped on standing and gave ___ 
IV fluids. Please continue to hydrate well with oral fluids. We 
continued all your home medications with no change. We started 
aspirin to try to prevent strokes since ___ have risk factors 
for stroke. Please follow up with your primary care physician as 
listed below, who can help monitor your blood sugar and may 
start medications for diabetes. We also found that ___ had 
muscle tension in your neck muscles, so we gave ___ a soft 
cervical collar to wear while ___ sleep. We also gave ___ a 
prescription for physical therapy so that they can help with 
muscle tension release. 
If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms: 
 
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
___  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 
35 minutes were spent on discharge.

Sincerely,  
 
Your ___ Neurology Team  

 
Followup Instructions:
___